US03987009
To the lithium diphenylphosphide solution prepared under nitrogen from lithium (0.6246 g, 0.09 g atom) and diphenylphosphinous chloride (9.92 g, 0.045 mol) in 50 ml dry tetrahydrofuran, 14.5 g (0.045 mol) of 4-bromophenyl triethoxysilane dissolved in 50 ml dry tetrahydrofuran is added during one hour. The blood-red solution turns to a light brown color with the appearance of a small amount of white solid. The solution is filtered under nitrogen, diluted with benzene to precipitate remaining lithium bromide, and refiltered. Analysis of the solution by gasliquid chromatography shows a content of unreacted bromosilane of 3.88 grams (0.0122 mol). Distillation in vacuum gives 4-(diphenylphosphinyl)phenyl triethoxysilane (13 grams, 68.1 percent yield), b.p. 164°-167° C/0.1 mm. The H'NMR spectrum is identical to the material prepared from 4-(diphenylphosphinyl)phenyl magnesium bromide and tetraethyl orthosilicate. The efficiency based upon bromosilane consumed is 93.4 percent.

reactant | lithium | 0.6246 g | [Li] | Li
reactant | diphenylphosphinous chloride | 0.045 mol, 9.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)Cl | C12H10ClP
reactant | 4-bromophenyl triethoxysilane | 0.045 mol, 14.5 g | BrC1=CC=C(C=C1)[Si](OCC)(OCC)OCC | C12H19BrO3Si
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-(diphenylphosphinyl)phenyl triethoxysilane | 13 grams, 68.1 percent yield | C1(=CC=CC=C1)P(=O)(C1=CC=C(C=C1)[Si](OCC)(OCC)OCC)C1=CC=CC=C1 | C24H29O4PSi
